US04770503
A suspension of 22.3 g of methoxymethyl-triphenylphosphonium chloride in 60 ml of diethyl ether is treated with 7.62 g of potassium t-butylate while stirring. 45 minutes later the mixture is treated with a solution of 3.16 g of 6-heptenal in 30 ml of diethyl ether. After 2 hour at room temperature the mixture is poured on to ice-water. The organic phase is separated, washed with water and dried and the crude 1,7-octadienyl methyl ether obtained is distilled.

reactant | methoxymethyl-triphenylphosphonium chloride | 22.3 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 6-heptenal | 3.16 g | C(CCCCC=C)=O | C7H12O
reactant | diethyl ether | 60 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 1,7-octadienyl methyl ether | COC=CCCCCC=C | C9H16O
